US09260425B2
In a microwave reaction vials was charged with 5-bromo-3-methyl-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine (296 mg, 1.0 mmol), Pyrimidine-5-boronic acid (185 mg, 1.5 mmol), 1,1′-Bis(diphenylphosphino)ferrocenepalladium (II) chloride (81.7 mg, 0.1 mmol), 1.00 M of Potassium acetate in Water (1.5 mL, 1.5 mmol), 1.00 M of Sodium carbonate in Water (1.5 mL, 1.5 mmol), and Acetonitrile (10 mL). The reaction mixture was heated under microwave at 130° C. for 30 minutes. The mixture was concentrated and the residue was purified on silica eluted with 0 to 5% MeOH in DCM with 1% NH4OH to afford 3-methyl-5-(pyrimidin-2-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine (281.9 mg, 95.45%).

reactant | 5-bromo-3-methyl-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine | 1.0 mmol, 296 mg | BrC=1C=C2C(=CN1)N(N=C2C)C2OCCCC2 | C12H14BrN3O
reactant | Pyrimidine-5-boronic acid | 1.5 mmol, 185 mg | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | Potassium acetate | 1.00 M | C(C)(=O)[O-].[K+]
reactant | Water | 1.5 mmol, 1.5 mL | O | H2O
reactant | Water | 1.5 mmol, 1.5 mL | O | H2O
solvent | Sodium carbonate | 1.00 M | C([O-])([O-])=O.[Na+].[Na+]
catalyst | 1,1′-Bis(diphenylphosphino)ferrocenepalladium (II) chloride | 0.1 mmol, 81.7 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | Acetonitrile | 10 mL | C(C)#N | C2H3N
product | 3-methyl-5-(pyrimidin-2-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine | 281.9 mg, 95.45% | CC1=NN(C2=CN=C(C=C21)C2=NC=CC=N2)C2OCCCC2 | C16H17N5O
